US09169259B2
A mixture of 6-chloro-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (66 mg, 0.2 mmol), benzo[d][1,3]dioxol-5-ylboronic acid (60 mg, 0.24 mmol), Pd2(dba)3 (12 mg, 0.02 mmol), X-phos (39 mg, 0.08 mmol) and Na2CO3 (64 mg, 0.6 mmol) in dioxane (5 mL) and water (0.5 mL) was heated to 100° C. with stirring for 16 h under N2. The solvent was removed in vacuo and the resulting mixture was purified by chromatography (silica gel, 200-300 mesh, CH2Cl2:MeOH=20:1) to give crude product as a yellow oil, which was then purified by chromatography (silica gel, 200-300 mesh, petroleum ether:ethyl acetate=3:1) to give 6-(benzo[d][1,3]dioxol-5-yl)-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (62 mg, 75%) as a yellow solid. 1H NMR (300 MHz, DMSO): δ 9.58 (s, 1H), 8.69 (s, 1H), 8.14 (s, 1H), 7.61 (s, 1H), 7.44-7.39 (m, 3H), 7.06-7.04 (m, 1H), 6.70 (d, 1H, J=7.5 Hz), 6.11 (s, 2H), 6.05 (d, 1H, J=8.1 Hz), 4.27-4.20 (m, 1H), 3.58-3.53 (m, 1H), 3.41-3.36 (m, 1H), 2.07-1.99 (m, 3H), 1.71-1.68 (m, 2H), 1.14 (d, 1H, J=6.0 Hz). LC-MS: [M+H]+, 415, tR=1.965 min, HPLC: 99.31% at 214 nm, 99.64% at 254 nm, tR=6.821 min.

reactant | 6-chloro-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 0.2 mmol, 66 mg | ClC=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2C(CCC2)C | C16H17ClN6
reactant | benzo[d][1,3]dioxol-5-ylboronic acid | 0.24 mmol, 60 mg | O1COC2=C1C=CC(=C2)B(O)O | C7H7BO4
reactant | X-phos | 0.08 mmol, 39 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | Na2CO3 | 0.6 mmol, 64 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.5 mL | O | H2O
catalyst | Pd2(dba)3 | 0.02 mmol, 12 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-(benzo[d][1,3]dioxol-5-yl)-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 62 mg, 75% | O1COC2=C1C=CC(=C2)C=2C=C(C=1N(N2)C=CN1)NC1=NC(=CC=C1)N1C(CCC1)C | C23H22N6O2
